US04044049
When 4-fluoroaniline and 2-methyl-nitrobenzene are used in the above example in place of 4-fluoro-2-methoxyaniline and nitrobenzene there is obtained 4'-fluoro-3-methyl-4-nitrobiphenyl.

reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 2-methyl-nitrobenzene | CC1=C(C=CC=C1)[N+](=O)[O-] | C7H7NO2
reactant | 4-fluoro-2-methoxyaniline | FC1=CC(=C(N)C=C1)OC | C7H8FNO
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 4'-fluoro-3-methyl-4-nitrobiphenyl | FC1=CC=C(C=C1)C1=CC(=C(C=C1)[N+](=O)[O-])C | C13H10FNO2
